US03947470
3-[4-(2-Diethylaminoethoxy)benzoyl]-2-(4-tolyl)benzofuran
Reaction of 3-(4-hydroxybenzoyl)-2-(4-tolyl)benzofuran with 2-diethylaminoethyl chloride by the procedure of Example 1 gives the title compound.

reactant | 3-(4-hydroxybenzoyl)-2-(4-tolyl)benzofuran | OC1=CC=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=C(C=C3)C)C=C1 | C22H16O3
reactant | 2-diethylaminoethyl chloride | C(C)N(CCCl)CC | C6H14ClN
product | 3-[4-(2-Diethylaminoethoxy)benzoyl]-2-(4-tolyl)benzofuran | C(C)N(CCOC1=CC=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=C(C=C3)C)C=C1)CC | C28H29NO3
